US07776986B2
Preparation of Butene-1/Propylene/Hexene Terpolymer
The preparation described in Example 13 was repeated with the difference that 5 g of propylene were fed after feeding butene-1. During polymerization the pressure was kept constant by feeding propylene. The final polymer, the characterization of which is reported in Table 1, contained 5.6% wt (NMR determination) of propylene and 4% wt of hexene. The DSC analysis showed no melting peak.

reactant | propylene | 5 g | C=CC | C3H6
reactant | butene-1 | CCC=C | C4H8
reactant | hexene | C=CCCCC | C6H12
product | Butene-1 Propylene Hexene | CCC=C.C=CC.C=CCCCC | InChI=1S/C6H12.C4H8.C3H6/c1-3-5-6-4-2;1-3-4-2;1-3-2/h3H,1,4-6H2,2H3;3H,1,4H2,2H3;3H,1H2,2H3
